2155-04-02 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2155-4-1**] 12:00 PM
   - Per IP: Effusion too small to tap.
   - Per Respiratory: On continuous high-flow nebs and given flutter valve
   - Became tachypneic at [**2146**], splinting, RR upper 30s - given morphine
   for pleuritic CP, CXR essentially unchanged from prior - improved
   tachypnea over following hour. Required 12mg morphine overnight for
   pain control.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-1**] 08:01 AM
   Vancomycin - [**2155-4-1**] 07:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-4-2**] 05:00 AM
   Morphine Sulfate - [**2155-4-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 106 (95 - 122) bpm
   BP: 129/62(78) {113/57(70) - 152/76(87)} mmHg
   RR: 32 (21 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,290 mL
                                                                    240 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,050 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                      0 mL
   Urine:
                                                                  2,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.49/35/61/26/3
   PaO2 / FiO2: 122
   Physical Examination
   GENERAL: Young woman sitting up in bed, speaking in short sentences.
   HEENT: Sclerae anicteric. MMM. No LAD
   CARDIAC: Tachycardia, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP not elevated.
   LUNG: Tachypneic. Bilateral scattered rhonchi. Decreased breath sounds
   and dullness @ R lung base.
   ABDOMEN: BS+, soft, NT/ND.
   EXT: No edema or calf pain, 2+ dorsalis pedis pulses bilaterally.
   NEURO: A&Ox3. Appropriate. PERRL. No focal deficits..
   DERM: No rashes/lesions, ecchymoses.
   Labs / Radiology
   262 K/uL
   11.9 g/dL
   118 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.5 mEq/L
   9 mg/dL
   103 mEq/L
   136 mEq/L
   34.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2155-4-1**]  04:00 AM
                             [**2155-4-1**]  04:30 AM
                             [**2155-4-1**]  04:52 AM
                             [**2155-4-1**]  09:00 AM
                             [**2155-4-2**]  02:41 AM
   WBC
   12.9
   17.3
   Hct
   35.3
   44
   34.3
   Plt
   224
   262
   Cr
   0.7
   0.6
   TCO2
   21
   32
   27
   Glucose
   161
   279
   118
   Other labs: Differential-Neuts:42.0 %, Band:29.0 %, Lymph:14.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,  Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Microbiology
   Urine Legionella Ag
 negative.
   Urinalysis
 negative.
   Imaging
   Chest XRay ([**4-1**] @ 8pm)
 (Prelim) Largely unchanged from AM film with
   possible progression of right-sided effusion.
   Assessment and Plan
   Ms. [**Known lastname 5312**] is a 22 yo F with PMH of asthma who presented with SOB,
   cough and pleuritic chest pain who has now been transferred to the MICU
   for hypoxia, tachycardia, fever and rising lactate, being treated for R
   multilobar PNA.
   .
   #) SIRS/Community-acquired pneumonia: Met SIRS criteria with fever,
   tachycardia, tachypnea, and bandemia, likely secondary to RLL/RML CAP
   and small para-pneumonic effusion.  Less likely but considered in
   differential were PE (pleuritic chest pain and OCP use), asthma
   exacerbation (but little wheezing on exam and pt seeing small benefit
   from nebs). Pt
s dyspnea, likely due to PNA, complicated by reactive
   airway disease and splinting from pleuritic CP. Of note, asthma is an
   independent risk factor for pneumococcal infection. Given that pt has
   CAP, most likely strep pneumo given her classic clinical presentation
   and appearance on CXR, will continue Levaquin as initiated by the ED
   and floor team. Seen by IP [**3-31**], and effusion too small to tap on U/S.
   Urine legionella negative. Sputum cx contaminated x2 and rapid viral cx
   not processed due to poor sample. U/A negative.
   - f/u repeat CXR. If effusion appears larger, reconsult IP for repeat
   U/S and possible thoracentesis.
   - Chest PT, suction.
   - f/u blood cultures
   - Resend rapid viral cx and influenza A and B; resend blood cx.
   - Continue levofloxacin 750 mg qday for 5-day course (Day 1=[**3-31**])
   - Continue Vancomycin for possible post-URI staph pneumonia and
   levaquin-resistent strep pneumo (Day 1=[**4-1**])
   - Morphine 2mg prn for pleuritic chest pain (balance pain control w/
   risk of respiratory depression)
   .
   #) Asthma: Pt with hx of asthma that is likely exacerbating current
   respiratory status given concomitant pneumonia. However, no evidence of
   wheezing on physical examination is suggestive against an acute asthma
   exacerbation.
   - Continue fluticasone-salmeterol and albuterol nebulizers q4h:prn,
   given progressive shortness of breath. Transition to home inhalers once
   resp status improved.
   - No systemic steroids given known infection
   .
   # FEN: Regular diet, replete lytes PRN
   .
   # PPX: Heparin SQ, bowel regimen
   .
   # ACCESS: 2 PIVs
   .
   # CODE: Full
   .
   # Comm: with patient and pt's father- cell [**Telephone/Fax (1) 5313**]
   .
   # DISPO: Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-1**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4988**], MSIV

2155-04-02 10:11:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2155-4-1**] 12:00 PM
   -Patient with persistent hypoxemia, respiratory distress and pleuritic
   chest pain
   -IP in to eval and trival effusion seen unable to tap
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-1**] 08:01 AM
   Vancomycin - [**2155-4-2**] 08:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-4-2**] 05:00 AM
   Morphine Sulfate - [**2155-4-2**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: Chest pain
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2155-4-2**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (98.9
   HR: 99 (95 - 122) bpm
   BP: 120/56(72) {113/56(70) - 152/76(87)} mmHg
   RR: 28 (18 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,290 mL
                                                                    440 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,050 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    400 mL
   Urine:
                                                                  2,650 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Dullness : ), (Breath Sounds: Bronchial: , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   262 K/uL
   118 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.5 mEq/L
   9 mg/dL
   103 mEq/L
   136 mEq/L
   34.3 %
   17.3 K/uL
        [image002.jpg]
                             [**2155-4-1**]  04:00 AM
                             [**2155-4-1**]  04:30 AM
                             [**2155-4-1**]  04:52 AM
                             [**2155-4-1**]  09:00 AM
                             [**2155-4-2**]  02:41 AM
   WBC
   12.9
   17.3
   Hct
   35.3
   44
   34.3
   Plt
   224
   262
   Cr
   0.7
   0.6
   TCO2
   21
   32
   27
   Glucose
   161
   279
   118
   Other labs: ALT / AST:13/15, Alk Phos / T Bili:40/0.5,
   Differential-Neuts:42.0 %, Band:29.0 %, Lymph:14.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL, LDH:193 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR-Persistence of right sided infiltrate
   Microbiology: Urine Legionella--Negative
   Viral Culture--lack of cells
   BC--NGTD
   SPutum--NGTD
   Assessment and Plan
   22 yo female with history of Asthma now admit with fever, pleuritic
   chest pain and multilobar pneumonia--now over first days has had
   persistence of significant respiratory distress and fever and with
   multilobar pneumonia now two days into process of treatment.
   1)Pneumonia
Has continued fevers and increased WBC count at this early
   phase
will need to monitor for possible evolution of effusion,
   cavitation, new culture results to argue for worsening will be
   essential to monitor
   -Vanco/Levo
   -patient with continued pleuritic chest pain
   -Continue po intake
   -Continue bronchodilators
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-1**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Plan discussed extensively with family and
   patient, will minimize visitors and stimulation
   Code status: FULL CODE
   Disposition : ICU
   Total time spent: 35 minutes

2155-04-03 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CXR - no significant interval change
   - okay for pt to take home OCP - was warned it will be less effective
   - Rapid respiratory virus test negative
   - sputum 3+ oropharyngeal flora, reordered
   - spiked a fever to 101, but gone before blood cultures drawn
 SPUTUM CULTURE - At [**2155-4-2**] 11:00 AM
   Pt reporting much improvement in symptoms; less work of breathing and
   decreased oxygen requirement (on 6L O2 NC, down from 50% face mask
   yesterday)
   C/o acid reflux symptoms
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-2**] 08:45 AM
   Levofloxacin - [**2155-4-2**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2155-4-3**] 06:40 AM
   Heparin Sodium (Prophylaxis) - [**2155-4-3**] 06:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-3**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 92 (85 - 111) bpm
   BP: 108/53(65) {105/49(62) - 138/91(95)} mmHg
   RR: 16 (15 - 44) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,222 mL
                                                                    640 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,502 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    300 mL
   Urine:
                                                                  1,450 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    772 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GENERAL: Young woman sitting up in bed, speaking in short sentences.
   HEENT: Sclerae anicteric. MMM. No LAD
   CARDIAC: Tachycardia, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP not elevated.
   LUNG: Tachypneic. Bilateral scattered rhonchi. Decreased breath sounds
   and dullness @ R lung base.
   ABDOMEN: BS+, soft, NT/ND.
   EXT: No edema or calf pain, 2+ dorsalis pedis pulses bilaterally.
   NEURO: A&Ox3. Appropriate. PERRL. No focal deficits..
   DERM: No rashes/lesions, ecchymoses.
   Labs / Radiology
   270 K/uL
   11.3 g/dL
   98 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   6 mg/dL
   103 mEq/L
   138 mEq/L
   32.5 %
   14.5 K/uL
        [image002.jpg]
                             [**2155-4-1**]  04:00 AM
                             [**2155-4-1**]  04:30 AM
                             [**2155-4-1**]  04:52 AM
                             [**2155-4-1**]  09:00 AM
                             [**2155-4-2**]  02:41 AM
                             [**2155-4-3**]  05:00 AM
   WBC
   12.9
   17.3
   14.5
   Hct
   35.3
   44
   34.3
   32.5
   Plt
   [**Telephone/Fax (3) 5356**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   21
   32
   27
   Glucose
   161
   279
   118
   98
   Other labs: PT / PTT / INR:13.3/28.6/1.1, ALT / AST:13/15, Alk Phos / T
   Bili:40/0.5, Differential-Neuts:86.0 %, Band:29.0 %, Lymph:12.2 %,
   Mono:1.5 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL,
   LDH:193 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Blood cultures NGTD
   Sputum 3+ oropharyngeal flora, culture pending
   No new ABG
   CXR- no significant change
   Assessment and Plan
   Ms. [**Known lastname 5312**] is a 22 yo F with PMH of asthma who presented with SOB,
   cough and pleuritic chest pain who has now been transferred to the MICU
   for hypoxia, tachycardia, fever and rising lactate, being treated for R
   multilobar PNA.
   .
   #) SIRS/Community-acquired pneumonia: Met SIRS criteria with fever,
   tachycardia, tachypnea, and bandemia, likely secondary to RLL/RML CAP
   and small para-pneumonic effusion.  Less likely but considered in
   differential were PE (pleuritic chest pain and OCP use), asthma
   exacerbation (but little wheezing on exam and pt seeing small benefit
   from nebs). Pt
s dyspnea, likely due to PNA, complicated by reactive
   airway disease and splinting from pleuritic CP. Of note, asthma is an
   independent risk factor for pneumococcal infection. Given that pt has
   CAP, most likely strep pneumo given her classic clinical presentation
   and appearance on CXR, will continue Levaquin as initiated by the ED
   and floor team. Seen by IP [**3-31**], and effusion too small to tap on U/S.
   Urine legionella negative. Sputum cx contaminated x3 and rapid viral
   antigens negative with viral culture pending
   Doing better this AM with less work of breathing and decreased oxygen
   requirement.
   - Repeat CXR appear stable (radiological improvement will lag behind
   clinical improvement)
   - f/u blood cultures
   - Resend rapid viral cx and influenza A and B; resend blood cx.
   - Continue levofloxacin 750 mg qday (Day 1=[**3-31**])
   - Continue Vancomycin for possible post-URI staph pneumonia and
   levaquin-resistent strep pneumo (Day 1=[**4-1**])
   - Morphine 2mg prn for pleuritic chest pain (balance pain control w/
   risk of respiratory depression)
   - Encourage ambulation
   .
   #) Acid reflux symptoms: likely due to being immobile. Also possibly
   abx side effect.
   - Start PPI and monitor improvement of symptoms
   #) Asthma: Pt with hx of asthma that is likely exacerbating current
   respiratory status given concomitant pneumonia. However, no evidence of
   wheezing on physical examination is suggestive against an acute asthma
   exacerbation.
   - Continue fluticasone-salmeterol and albuterol nebulizers q4h:prn,
   given progressive shortness of breath. Transition to home inhalers once
   resp status improved.
   - No systemic steroids given known infection
   .
   # FEN: Regular diet, replete lytes PRN
   .
   # PPX: Heparin SQ, bowel regimen
   .
   # ACCESS: 2 PIVs
   .
   # CODE: Full
   .
   # Comm: with patient and pt's father- cell [**Telephone/Fax (1) 5313**]
   .
   # DISPO: call out to floor pending how she does on ambulation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-1**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2155-04-03 10:48:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2155-4-2**] 11:00 AM
   CXR--no change
   -FIO2 weaned overnight
   -Viral Culture negative
   -WBC decreased
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-4-2**] 10:00 AM
   Vancomycin - [**2155-4-3**] 08:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-4-3**] 06:41 AM
   Morphine Sulfate - [**2155-4-3**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-3**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 95 (85 - 111) bpm
   BP: 120/60(73) {105/49(62) - 138/91(95)} mmHg
   RR: 29 (15 - 43) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,222 mL
                                                                  1,080 mL
   PO:
                                                                    720 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,502 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    900 mL
   Urine:
                                                                  1,450 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    772 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : ), Decreased splinting, no wheezes
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   270 K/uL
   98 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   6 mg/dL
   103 mEq/L
   138 mEq/L
   32.5 %
   14.5 K/uL
        [image002.jpg]
                             [**2155-4-1**]  04:00 AM
                             [**2155-4-1**]  04:30 AM
                             [**2155-4-1**]  04:52 AM
                             [**2155-4-1**]  09:00 AM
                             [**2155-4-2**]  02:41 AM
                             [**2155-4-3**]  05:00 AM
   WBC
   12.9
   17.3
   14.5
   Hct
   35.3
   44
   34.3
   32.5
   Plt
   [**Telephone/Fax (3) 5356**]
   Cr
   0.7
   0.6
   0.6
   TCO2
   21
   32
   27
   Glucose
   161
   279
   118
   98
   Other labs: PT / PTT / INR:13.3/28.6/1.1, ALT / AST:13/15, Alk Phos / T
   Bili:40/0.5, Differential-Neuts:86.0 %, Band:29.0 %, Lymph:12.2 %,
   Mono:1.5 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Albumin:3.3 g/dL,
   LDH:193 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--no significant change
   Assessment and Plan
   22 yo female admit with multilobar pneumonia and now with improved
   findings of respiratory distress and hypoxemia in the setting of
   ongoing ABX therapy.
    PNEUMONIA, OTHER
   -Vanco/Levo
14 day course
   -MSO4 q 2-4 hours for pleuritic chest pain
   -Continue to follow exam
   Asthma
   -Alb/Atrovent
   -Fluticasone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-4-1**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Discussed with mother in detail
   Code status: Full code
   Disposition :ICU
to floor today for continued care
will have to
   consider possible ambulation today but oxygen requirement will be
   important to monitor
   Total time spent: 40